US05270309
To 4-benzyloxy-5,7-dichloroquinoline-2-carboxylic acid (1.7 g), was added thionyl chloride (10 ml) and the mixture was heated to reflux for 2 hours. The mixture was cooled to room temperature, excess thionyl chloride removed under reduced pressure to give an off white solid, to which was added dry tetrahydrofuran (20 ml). The solution was cooled to 0° C. and N,N-diethylethanolamine (2.1 ml) added dropwise. The reaction was left to warm to room temperature over 1 hour, poured into 10% sodium carbonate (100 ml) and extracted with ethyl acetate (3×100 ml). The organic layers were combined and washed with water (2×100 ml), brine (2×50 ml) and dried over magnesium sulphate. The solvent was removed under reduced pressure and the crude product purified by column chromatography to give 2-diethylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate (1.1 g). δ (360 MHz, DMSO-d6), 0.99 (1H, t, CH2CH3), 2.54 (4H, q, CH2CH3), 2.81 (2H, t, CH2N), 4.41 (2H, m, CO2CH2), 5.50 (2H, s, OCH2), 7.41 (3H, m, o,p-ArH). 7.60 (2H, d, m-ArH), 7.71 (1H, s, 3-H), 7.86 (1H, d, 6-H) and 8.12 (1H, d, 8-H).

reactant | 4-benzyloxy-5,7-dichloroquinoline-2-carboxylic acid | 1.7 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)O | C17H11Cl2NO3
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N,N-diethylethanolamine | 2.1 ml | C(C)N(CCO)CC | C6H15NO
reactant | sodium carbonate | 100 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-diethylaminoethyl 4-benzyloxy-5,7-dichloroquinoline-2-carboxylate | 1.1 g | C(C1=CC=CC=C1)OC1=CC(=NC2=CC(=CC(=C12)Cl)Cl)C(=O)OCCN(CC)CC | C23H24Cl2N2O3
